US06706709B2
To a solution of 5-(3-oxo-3-pyrrolidin-1-yl-propyl)-1H-indole-2-carboxylic acid ethyl ester (1.5 g, 4.8 mmol) in 100 mL of tetrahydrofuran, lithium aluminum hydride powder (728 mg, 19.2 mmol) was added. The mixture was stirred under nitrogen at room temperature for 2 hour. To the reaction mixture was added water (0.75 mL), 15% sodium hydroxide (0.75 mL) and water (0.75 mL). It was then filtered through a pad of celite and the filtrate was concentrated. The residue was washed with ethyl acetate to give 960 mg (78%) of [5-(3-pyrrolidin-1-yl-propyl)-1H-indol-2-yl]-methanol.

reactant | 5-(3-oxo-3-pyrrolidin-1-yl-propyl)-1H-indole-2-carboxylic acid ethyl ester | 4.8 mmol, 1.5 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)CCC(N1CCCC1)=O | C18H22N2O3
reactant | lithium aluminum hydride | 19.2 mmol, 728 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.75 mL | O | H2O
reactant | sodium hydroxide | 0.75 mL | [OH-].[Na+]
reactant | water | 0.75 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [5-(3-pyrrolidin-1-yl-propyl)-1H-indol-2-yl]-methanol | 960 mg, 78% | N1(CCCC1)CCCC=1C=C2C=C(NC2=CC1)CO | C16H22N2O
